US08461185B2
Step E: tert-Butyl 3-bromo-5-[(E)-(hydroxyimino)methyl]benzoate
To a solution of tert-butyl 3-bromo-5-formylbenzoate (119 g, 417 mmol) in dioxane (2.4 L) were added hydroxylamine hydrochloride (44.0 g, 633 mmol) and pyridine (103 mL, 1.27 mol). The reaction mixture was heated to 68° C. After 16 h, the mixture was concentrated. Saturated aqueous amonium chloride was added the mixture was extracted with dichloromethane (3×). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated (125.0 g). MS 243 (M-tert-butyl).

reactant | tert-butyl 3-bromo-5-formylbenzoate | 417 mmol, 119 g | BrC=1C=C(C(=O)OC(C)(C)C)C=C(C1)C=O | C12H13BrO3
reactant | hydroxylamine hydrochloride | 633 mmol, 44.0 g | Cl.NO
reactant | pyridine | 1.27 mol, 103 mL | N1=CC=CC=C1 | C5H5N
solvent | dioxane | 2.4 L | O1CCOCC1 | C4H8O2
product | tert-Butyl 3-bromo-5-[(E)-(hydroxyimino)methyl]benzoate | BrC=1C=C(C(=O)OC(C)(C)C)C=C(C1)/C=N/O | C12H14BrNO3
